US05622971
Ethyl 2-(4-methoxybenzoyl)-3-(3.4-methylenedioxy-phenyl)-4-nitro-butanoate
Into a 45-L stirred reactor at ambient temperature were charged 5.819 kg (30.1 moles) 3,4-methylenedioxy-1-(2-nitroethenyl)-benzene and 24 L ethyl acetate. A solution of 5.355 kg (24.1 moles) ethyl 3-(4-methoxyphenyl)-3-oxopropionate in 16 L ethyl acetate was added. 280 g (275 ml, 1.84 moles) of 1,8-diaza-bicyclo[5.4.0]undec-7-ene in four equal portions was added over a 2.5 hour period. The reaction mixture was filtered through dicalite and the resulting filtered solution was used in the next step without any further purification.

reactant | 3,4-methylenedioxy-1-(2-nitroethenyl)-benzene | 30.1 moles, 5.819 kg | C1OC=2C=C(C=CC2O1)C=C[N+](=O)[O-] | C9H7NO4
reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropionate | 24.1 moles, 5.355 kg | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
reactant | 1,8-diaza-bicyclo[5.4.0]undec-7-ene | 1.84 moles, 275 ml, 280 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | 16 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 24 L | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-methoxybenzoyl)-3-(3.4-methylenedioxy-phenyl)-4-nitro-butanoate | COC1=CC=C(C(=O)C(C(=O)OCC)C(C[N+](=O)[O-])C2=CC3=C(C=C2)OCO3)C=C1 | C21H21NO8
